US06395919B1
(a) Ethyl 3-(4-cyano-3-hydroxyphenyl)propionate
A mixture of ethyl 3-(4-cyano-3-methoxyphenyl)propionate (3.17 g, 13.6 mmol, 1 equiv) and sodium cyanide (2.00 g, 40.8 mmol, 3.00 equiv) in DMSO (60 mL) was stirred at 140-180° C. for 2 h. After 2.5 hours the reaction mixture was taken up in H2O (300 mL), adjusted to pH 7 with AcOH (2.1 mL), and extracted with Et2O (1×150 mL). The organic layer was washed with H2O (2×50 mL), dried (anh. Na2SO4), and concentrated (75° C.). This yielded 2.05 g (68.8%) of ethyl 4-(4-cyano-3-hydroxyphenyl)propionate as a light yellow crystalline solid: 1H-NMR (CDCl3) 7.42 (1H, d), 7.40 (1H, br s), 6.92 (1H, d), 6.81 (1H, dd), 4.15 (2H, q), 2.94 (2H, dd), 2.64 (2H, dd), 1.25 (3H, t).

reactant | ethyl 3-(4-cyano-3-methoxyphenyl)propionate | 13.6 mmol, 3.17 g, 1 equiv | C(#N)C1=C(C=C(C=C1)CCC(=O)OCC)OC | C13H15NO3
reactant | sodium cyanide | 40.8 mmol, 2.00 g, 3.00 equiv | [C-]#N.[Na+]
reactant | AcOH | 2.1 mL | CC(=O)O | C2H4O2
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | H2O | 300 mL | O | H2O
product | Ethyl 3-(4-cyano-3-hydroxyphenyl)propionate | C(#N)C1=C(C=C(C=C1)CCC(=O)OCC)O | C12H13NO3
